US03931407
b. 1-(3-Carboxy-4-hydroxyphenyl)-5-methyl-2-phenyl-4,5,6,7-tetrahydroindole ##SPC83##
a solution of 50 g. (0.22 mole) of 4-methyl-2-phenacylcyclohexanone, 33.7 g. (0.22 mole) of 5-aminosalicylic acid, and 257 ml. of glacial acetic acid was heated under reflux for 3 hours, cooled and filtered. The collected solid was washed with water and recrystallized from acetonitrile to provide 43.3 g. (57%) of yellow crystals, m.p. 213°-215°.

reactant | 4-methyl-2-phenacylcyclohexanone | 0.22 mole | CC1CC(C(CC1)=O)CC(=O)C1=CC=CC=C1 | C15H18O2
reactant | 5-aminosalicylic acid | 0.22 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-4-hydroxyphenyl)-5-methyl-2-phenyl-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CC(CCC12)C)C1=CC=CC=C1 | C22H21NO3
